Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S: "I've been thinking of killing myself"

___ recent ___ graduate, employed, domiciled, w/PPHx
of depression and anxiety but no prior psychiatric treatment
aside from seeing a therapist for the past 2 months, and no
significant PMHx, who was sent to the ED by her therapist after
disclosing worsening depression, self-injurious behavior and SI
with plan for the past week. Psychiatry was consulted for safety
evaluation and management. 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient states that she's been having depressive episodes since
the freshman year of college. Aside from briefly seeing a
therapist in ___, she never sought psychiatric help until
___ of this year when she started seeing a therapist. 
Patient
reports that her depression got worse after graduation from
___ when she faced the realities of the job market
(she makes her living by doing ___ work for a 
___ while trying to find her way into the ___ business) 
and
started doubting her talent and her future, especially after one
of her former close friends publicly renounced her as worthless
and talentless. In ___ of this year patient also had a
painful break up with her long-term boyfriend, after which she
decided to start seeing a therapist. Patient also reports that
she has been superficially cutting her thighs for the past year
in order to distract herself from her psychic pain. 

For the past few weeks, patient has been experiencing low mood,
feelings of worthlessness and hopelessness, fatigue, worries
about her relationships with friends, decreased motivation 
toward
making her music or going to the gym, poor appetite and
difficulties with sleep (staying up ruminating or waking up in
the middle of the night and not being able to get back to 
sleep).
Regarding her eating, patient says that she lacks appetite but
that she also skips meals worrying about eating the right kinds
of food and not gaining weight, but end up eating unhealthy food
in the evenings; she denies any purging or overexercising
behaviors. Patient also endorsed more frequent cutting. She
denied ever experiencing any nightmares, A/VH, paranoia,
delusions of reference, periods of increased energy or lack of
need for sleep. 

During the past week, patient's psychic pain has been higher, 
she
cut her thighs a few days ago, and she's been experiencing 
strong
urges to hurt herself, as well as persistent thoughts of killing
herself by cutting her wrists. Patient says she has researched
ways of doing it effectively. She says that her suicidal 
thoughts
are so strong she's afraid she may act on them. Aside from
cutting her wrists, patient has also thought of jumping in front
of a train or stepping into traffic. After patient disclosed
these thoughts to her therapist, she was sent to the ED.

Patient is agreeable to inpatient psychiatric hospitalization
given her concerns for her own safety and realization of her 
need
for help.  

During initial evaluation on the unit:
Ms. ___ shared that she has been dealing with depression x ___ 
yrs.
Describing sx's, she reported low mood, decreased motivation,
decreased level of activities, reported increased sleep and
spending more time in bed. She also reported about social
withdrawal, low self esteem, increased self doubt. Reported
changing food intake ("eating junkfood"). She reported stable
weight. Per OMR, pt had hx of fluctuating weight.

Additionally, she described increased level of anxiety. She
described sx's of derealization: she felt that things happening
around her "are like in a movie". She also described
depersonalization "feeling like I am not alive". She described
sensation "like floating" (not feeling real). She clearly denied
sx's of full fledged psychosis.
She reported worries about future, self doubt. Reported about
episodes of panic attacks: feeling rapidly developing anxiety,
"burning sensation" throughout the body, heart palpitation,
shortness of breath. She reports that she experienced these
episodes when seeing person who basically verbally insulted her.
She also described panic attacks without any particular
precipitant.
Ms. ___ also experienced episodes when she felt so overwhelmed 
that
her body "went numb". She started to engage in cutting behaviors
(on thighs) to "feel at least something".

Ms. ___ shared that her episodes of depression have had seasonal
component: she started to experience them after moving to ___
from ___ (for school). She experienced them in ___ (in 
her
Sophomore and ___ years).
Most recent episode has been developing since ___.
Ms. ___ shared that she had quite traumatic event in ___ 
when
one of her ex-friends (member of the band) basically yelled at
patient in front of other friends and band members stating that
she is "worthless...useless...and talentless". Since then, she
has been experiencing increasing self doubt, anxiety, avoiding
behaviors. She felt that friends and her boyfriend helped her to
cope and with that traumatic episode.
In context of relationship break up in ___, Ms. ___
noticed worsening of depression. In that context, she started to
see her current therapist.
Within last week, Ms. ___ experienced worsening of depression 
again
with low mood, experience of heavy sensation in her body, 
fatigue
and "emotional pain". She felt "tired of this". She started to
think about suicide as a way to stop emotional pain. She started
to explore options of suicide. Luckily, Ms. ___ recognized danger
and shared her experiences with her therapist.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: none
Current treaters and treatment:
- therapist whom patient has been seen since ___
- no psychiatrist
Medication and ECT trials:
- no psychiatric medications or ECT trials
Self-injury:
- superficially cutting her thighs for the past year;
- no prior suicide attempts
Harm to others: denies any
Access to weapons: denies any access to guns but endorses access
to sharp knives

PAST MEDICAL HISTORY: denied any acute medical issues at the 
present
As a child, she experienced recurrent ear infections and tube
placement or ear drums repair.
She reported being diagnosed with PCOS (acne, some hirsutism,
irregular periods and positive US), She was placed on OCP with
good response.
She reported some fractures while playing soccer. Clearly denied
severe head injuries, concussions.

MEDICATIONS including vitamins, herbs, supplements, OTC:
OCP (patient has been on it for years; not a recent medication
change)

ALLERGIES: NKDA

 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol: patient says she gets drunk for fun but never to the
point of blackout or vomiting with her friends about once a 
week;
- Tobacco: not a regular smoker but may occasionally have a
cigarette socially;
- Cannabis: occasional marijuana smoker; says she hasn't smoked
in the past 6 months;
- Patient denies any illicit drug use or prescription drug 
misuse

FORENSIC HISTORY: ___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Patient mentioned that maternal aunt possibly had eating dos.
Patient's father mentioned that paternal grandmother has been 
dealing with depression (treated with Lexapro and Abilify).
No reported hx of suicide attempts or suicides.

 
Physical Exam:
EXAM:

General: 
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus. 
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout. 
-Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales. 
-Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness. 
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological: 

-Cranial Nerves: 
---I: Olfaction not tested. 
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. VFF to confrontation. 
---III, IV, VI: EOMI without nystagmus 
---V: Facial sensation intact to light touch in all 
distributions

---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
---VIII: Hearing intact to finger rub bilaterally 
---IX, X: Palate elevates symmetrically 
---XI: ___ strength in trapezii and SCM bilaterally 
---XII: Tongue protrudes in midline -Motor: Normal bulk and tone
bilaterally. No abnormal movements, no tremor. Strength ___
throughout. 
-Sensory: No deficits to fine touch throughout 
-DTRs: 2 and symmetrical throughout Coordination: Normal on
finger to nose test, no intention tremor noted 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

 
EXAM:
___ 1555 Temp: 97.9 PO BP: 118/78 HR: 84 RR: 16 O2 sat: 99% 


Mental Status: 
 *Appearance: ___ yo alert woman appearing her stated age, with
long hair, wearing glasses, appropriate grooming and hygiene,
dressed in hospital gown. NAD, no facial asymmetry, no
involuntary/abnormal movements. Proceeded with unremarkable 
gait.
 Behavior: friendly, polite, cooperative, good eye contact. No
sx's of PMA/PMR.
 *Speech: spontaneous, fluent, normal rate and prosody. Clear
voice.
 *Thought process / *associations: linear and goal-oriented, no
LOA. She is observant person with ability to recognize her
emotional experiences.
 *Thought Content: endorsed SI preceding hospital admission
("tired of this...to have rest"); denies any HI, A/VH, paranoia
or ideas of reference; no delusions or obsessions elicited; does
not appear to attend to internal stimuli; on idiosyncratic
statements.
 *Mood and Affect: "depressed"/friendly, somewhat anxious, 
affect
congruent with mood, reactive

 *Judgment and Insight: fair/fair. She recognizes problem with
depression and would like to get help. Her judgment is 
negatively
affected by her mood with hopelessness, worthlessness. Hx of
difficulties tolerating strong affect (self injurious 
behaviors).

On formal assessment of cognition: she is A, Ox4, registered 
___,
recalled ___ after 5 min delay. Basic attention grossly intact:
7df with second attempt. Concentration mildly decreased: 4db.
She was able to answer question "If the flag waves towards the
Southeast, where is the wind coming from?". She responded:"From
the ___

 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.7 RBC-3.99 Hgb-12.5 Hct-37.6 MCV-94 
MCH-31.3 MCHC-33.2 RDW-11.9 RDWSD-41.1 Plt ___
___ 06:55PM BLOOD WBC-7.4 RBC-4.12 Hgb-12.5 Hct-39.1 MCV-95 
MCH-30.3 MCHC-32.0 RDW-11.9 RDWSD-41.6 Plt ___
___ 06:55PM BLOOD Neuts-66.0 ___ Monos-5.7 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.86 AbsLymp-1.94 AbsMono-0.42 
AbsEos-0.08 AbsBaso-0.04
___ 06:30AM BLOOD Glucose-90 UreaN-10 Creat-0.9 Na-141 
K-4.5 Cl-103 HCO3-26 AnGap-12
___ 06:55PM BLOOD Glucose-100 UreaN-10 Creat-0.9 Na-139 
K-4.0 Cl-103 HCO3-24 AnGap-12
___ 06:30AM BLOOD ALT-9 AST-18 AlkPhos-31*
___ 06:30AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.2 Cholest-154
___ 06:30AM BLOOD VitB12-286
___ 06:30AM BLOOD %HbA1c-5.0 eAG-97
___ 06:30AM BLOOD Triglyc-106 HDL-67 CHOL/HD-2.3 LDLcalc-66
___ 06:30AM BLOOD TSH-1.7
___ 06:30AM BLOOD PTH-32
___ 06:30AM BLOOD Free T4-1.0
___ 06:30AM BLOOD 25VitD-27*
___ 06:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 10:00PM URINE UCG-NEGATIVE
___ 10:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG fentnyl-NEG
 
Brief Hospital Course:
Initial impression upon admission:
___ recent ___ graduate, employed, domiciled, w/PPHx
of depression and anxiety but no prior psychiatric treatment
aside from seeing a therapist for the past 2 months, and no
significant PMHx, who was sent to the ED by her therapist after
disclosing worsening depression, self-injurious behavior and SI
with plan for the past week. Psychiatry was consulted for safety
evaluation and management. 

Patient's clinical presentation could be summarized as severe
anxious-depressive syndrome.
Major depressive disorder, severe, without psychosis is on diff
diagnosis list.
However, I am concerned about bipolar disorder as pt has several
important risk factors: mood disorder with early onset (in
teens), depression with atypical features, seasonal component,
multiple episodes of depression ___ episodes in last ___,
reported difficulties tolerating strong affect (recent hx of 
self
injurious behaviors). Reported possible hx of eating dos (per
OMR). All of the above, are risk factors for bipolar
predisposition.
After family meetings, we learned that pt's paternal grandmother 
was dealing with mood disorder. Grandmother received treatment 
with antidepressants. Her condition stabilized with Lexapro and 
Abilify.

I considered and rejected diagnosis of cluster B personality
pathology as pt has good ability to reflect/mentalize. She was
able to develop stable relationship. She didn't exhibit
externalizing behaviors

DX: Depression, NOS (Likely bipolar depression in the context of
BPAD type2 vs unipolar depression). R/o seasonal affective dos.
R/O mood dos ___ gen-medical condition (e.g., PCOS).

It was felt that pt requires inpt level of care ___ risk for 
self in the context
of severe depressive episode and S/I with plan.

Ms. ___ was admitted on the condition voluntary basis.
She remained on 15 min checks and supervised access to sharps.

-Pt was provided with preliminary info about meds for treatment
of bipolar dos (mood stabilizers, atypical APs) and unipolar
depression (antidepressants).
-Pt was provided with info about bipolar dos and depression
(booklets were provided).
-For now, pt was started on Hydroxyzine 25mg po q6hrs PRN
anxiety, insomnia, upset stomach.

- The patient was not eligible for access to the outdoors due to
risk for self in the context of severe depression and recent
increase of S/I (with plan).

-To r/o medical contributors to depression, would like to repeat
CBC, CMP, TSH, fT4, PTH, Vit D, B12. Will also obtain Hgb A1c 
and
lipid profile as atypical AP is considered. Will also obtain 
ECG.

Ms. ___ read information about unipolar and bipolar depression. 
She was able to recognize some features of bipolal spectrum 
condition. She shared that she actually had episodes when she 
felt energized, was accomplishing more and not requiring much 
sleep. These episodes were ___ days long.

We had several family meetings with pt's father (___) being 
available in person and pt's mother being on the phone.

After discussion of risks and benefits, we agreed to proceed 
with trial of Abilify in very low dose: 2mg po qHS. Pt was 
educated about risks of meds including weight gain, metabolic 
syndrome and some risk for movement disorder.

-I discussed the indications for, intended benefits of, and 
possible side effects and risks of Hydroxyzine and Abilify. 
Discussed risks and benefits of possible alternatives, including 
not taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to 
continue and to adjust the medication to clinical response.

Ms. ___ tolerated Abilify 2mg po qHS quite well. She denied any 
side effects. She noticed that her sleep improved. Level of 
anxiety decreased. She felt that her mood has been better. She 
felt more hopeful about improvement of her condition.

We recommended pt to discuss with outpatient provider option of 
switch to Lamictal on the outpatient basisi: side effect profile 
of Lamictal is more favorable. It could be better long term 
option of management of Bipolar depression.

Ms. ___ actively participated in group therapy and found it 
helpful. She was friendly, sociable, compliant in the milieu. 
Good interpersonal skills. She was spending time socializing 
with other young adult female peers.

On ___, Ms. ___ reported that she feels ready for the 
discharge. Her family came from ___. She would like to spend 
couple days with family before returning to ___ for vacation for 
Holidays.
Family meeting was held on the discharge day (___): pt, her 
both parents were present. They were educated about pt's 
condition, recommended treatments.
We also discussed issue of ___ Affective disorder and 
options of treatment: lightbox for ___ in the morning.
Pt and family were provided with psychoeducation about condition 
and supports (e.g., support groups through ___). Discussed 
appropriate steps in case of emergency.

Team strongly recommended pt to refrain from EtOH as it has 
negative effect on mood, sleep, impulsivity and general health.

PROGNOSIS:
Considering long standing nature of pt's mood disorder, 
prognosis is guarded. Pt's prognosis can improve with ongoing 
outpatient psychiatric follow up with individual therapy and 
medication management. Pt was also encouraged to utilize partial 
hospital program as step down option after the hospital 
discharge.

Pt's risk for suicide at the time of discharge was low. However, 
pt is still at increased risk long term in the context of mood 
disorder. Pt will require ongoing outpatient psychiatric 
treatment.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Norethindrone-Estradiol Dose is Unknown  PO DAILY OCP 
This is dose #  of  tapered doses

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  ARIPiprazole 2 mg PO QHS 
RX *aripiprazole [Abilify] 2 mg one tablet(s) by mouth at 
bedtime Disp #*15 Tablet Refills:*0 
3.  HydrOXYzine 25 mg PO Q6H:PRN anxiety/nausea/insomnia 
RX *hydroxyzine HCl 25 mg one tablet by mouth every six (6) 
hours Disp #*10 Tablet Refills:*0 
4.  norethindrone-ethin estradioL 0.5-35 mg-mcg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depressive disorder, not otherwise specified.
Bipolar disorder, type 2, currently depressed
Seasonal affective disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

On the discharge day, Ms. ___ reported feeling quite well and 
ready for the discharge. She described her mood as 'OK'. She 
denied excessive level of anxiety. Denied any side effects from 
the medications.
She reported ongoing chronic lower back pain (___) that has 
been going on since ___. She plans to follow up with 
her PCP.
On exam, A, Ox4, friendly, euthymic affect. No sx's of 
psychosis. Clearly denied S/H/I and reported about appropriate 
steps in case of emergency. She plans to continue with 
outpatient treatment.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___